US09422271B2
The mixture of Pd(dppf)Cl2.CH2Cl2 (74 mg, 0.09 mmol, 0.15 eq.), 2-bromo-5-chloro-N-(5-(trans-2-methylcyclopropyl)-1H-pyrazol-3-yl)pyrimidin-4-amine (200 mg, 0.61 mmol, 1.0 eq), 5-(N-tert-butylsulfamoyl)thiophen-2-ylboronic acid (192 mg, 0.73 mmol, 1.2 equiv.) and saturate Ka2CO3 (5 mL) in dioxane (10 mL) was heated to 90° C. for 1 h under nitrogen atmosphere. The reaction mixture was cooled to rt, and extracted with THF. The combined layers were purified by silica gel chromatography (EtOAc/Petroleum ether from 10:1 to 2:1) to afford compound N-tert-butyl-5-(5-chloro-4-(5-(trans-2-methylcyclopropyl)-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-sulfonamide (180 mg, 63%).

reactant | CH2Cl2 | 0.09 mmol, 74 mg, 0.15 eq. | C(Cl)Cl | CH2Cl2
reactant | 2-bromo-5-chloro-N-(5-(trans-2-methylcyclopropyl)-1H-pyrazol-3-yl)pyrimidin-4-amine | 0.61 mmol, 200 mg, 1.0 eq | BrC1=NC=C(C(=N1)NC1=NNC(=C1)[C@H]1[C@@H](C1)C)Cl | C11H11BrClN5
reactant | 5-(N-tert-butylsulfamoyl)thiophen-2-ylboronic acid | 0.73 mmol, 192 mg, 1.2 equiv. | C(C)(C)(C)NS(=O)(=O)C1=CC=C(S1)B(O)O | C8H14BNO4S2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-tert-butyl-5-(5-chloro-4-(5-(trans-2-methylcyclopropyl)-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-sulfonamide | 180 mg, 63% | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC=C(C(=N1)NC1=NNC(=C1)[C@H]1[C@@H](C1)C)Cl | C19H23ClN6O2S2
